US08198269B2
(3) Synthesis of (±)-(4aR*,8aS*)-8a-(2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine
Benzoyl isothiocyanate (372 μl) was added to a solution of (±)-[(3S*,4R*)-3-amino-3-(2,2-difluorobenzo[1,3]dioxol-4-yl)tetrahydropyran-4-yl]methanol (661 mg) in dichloromethane (9.53 ml). The mixture was stirred at room temperature for three hours, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography. The resulting intermediate was dissolved in methanol (20 ml). Concentrated hydrochloric acid (five drops) was added and the mixture was heated under reflux for five hours. The reaction solution was cooled to room temperature, and the solvent was evaporated under reduced pressure. The residue was dissolved in methanol (20 ml) and DBU (700 μl) was added, followed by heating under reflux for five hours. The reaction solution was cooled to room temperature, and the solvent was evaporated under reduced pressure. The residue was purified by NH-silica gel column chromatography to obtain the title compound (350 mg). 1H-NMR (400 MHz, CDCl3) δ (ppm): 1.43-1.48 (m, 1H), 2.08-2.19 (m, 1H), 2.64 (dd, J=2.8, 12.4 Hz, 1H), 2.74-2.80 (m, 1H), 2.98 (dd, J=4.4, 12.4 Hz, 1H), 3.69 (ddd, J=2.4, 11.6, 12.8 Hz, 1H), 3.79 (d, 11.2 Hz, 1H), 3.93 (d, J=10.8 Hz, 1H), 4.10 (dd, J=5.2, 11.2 Hz, 1H) 6.99 (dd, J=2.0, 7.2 Hz, 1H), 7.03-7.09 (m, 2H).

reactant | Benzoyl isothiocyanate | 372 μl | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | (±)-[(3S*,4R*)-3-amino-3-(2,2-difluorobenzo[1,3]dioxol-4-yl)tetrahydropyran-4-yl]methanol | 661 mg | N[C@]1(COCC[C@H]1CO)C1=CC=CC=2OC(OC21)(F)F | C13H15F2NO4
solvent | dichloromethane | 9.53 ml | ClCCl | CH2Cl2
product | (±)-(4aR*,8aS*)-8a-(2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 350 mg | FC1(OC2=C(O1)C=CC=C2[C@@]21COCC[C@H]1CSC(=N2)N)F | C14H14F2N2O3S
